US08809342B2
To a solution of 1-bromo-4-(nitromethyl)benzene (5.00 g, 20 mmol) in toluene (40 mL) was added palladium tetrakis(triphenylphosphine) (2.67 g, 2.31 mmol), 4-(trifluoromethyl)phenylboronic acid (5.28 g, 27.8 mmol) and potassium fluoride (4.0 g, 69 mmol). The reaction mixture was purged with nitrogen and heated to reflux. Water (10 mL) was added and the mixture was refluxed overnight. The mixture was diluted with saturated aqueous NH4Cl and the phases separated. The aqueous layer was extracted with ethyl acetate (20 mL *3). The combined organic layers were washed with water (50 mL*3), brine, dried over Na2SO4 and concentrated. The crude residue was purified by silica gel chromatography to give 4-(nitromethyl)-4′-(trifluoromethyl)biphenyl (2.0 g) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 7.75-7.66 (m, 6H), 7.57 (d, J=8.0 Hz, 2H), 5.51 (s, 2H).

reactant | 1-bromo-4-(nitromethyl)benzene | 20 mmol, 5.00 g | BrC1=CC=C(C=C1)C[N+](=O)[O-] | C7H6BrNO2
reactant | 4-(trifluoromethyl)phenylboronic acid | 27.8 mmol, 5.28 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium fluoride | 69 mmol, 4.0 g | [F-].[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium tetrakis(triphenylphosphine) | 2.31 mmol, 2.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 4-(nitromethyl)-4′-(trifluoromethyl)biphenyl | 2.0 g | [N+](=O)([O-])CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C14H10F3NO2
